US04820834
N-(2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-N'-phenylurea
Equimolar amounts of 3(R,S)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one and phenylisocyanate were mixed in 8 ml of dry tetrahydrofuran at room temperature. The reaction mixture was allowed to stand for 8 hours and was then filtered. The collected solids were washed with tetrahydrofuran and dried in vacuo over P2O5 to give the analytical product: m.p. 260°-261° C.

reactant | 3(R,S)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C16H15N3O
reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | N-(2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-N'-phenylurea | CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)NC2=CC=CC=C2)=O | C23H20N4O2
